US05037830
Preparation of 2-(2-dimethylaminobenzyl)thio-6-methyl-4(3H)-pyrimidinone
355 mg (2.5 mmol) of 6-methyl-2-thiouracil are dissolved in a sodium ethoxide solution prepared from 116 mg (5.05 mmol) of sodium metal and 15 ml of anhydrous ethanol. The mixture is gently warmed to dissolve the thiouracil, then 515 mg (2.5 mmol) of (2-chloromethylphenyl)-dimethylammonium chloride are added and the reaction mixture is refluxed under stirring for 1 hour. Sodium chloride is immediately precipitated from the solution. After evaporation under reduced pressure the residue is taken up in water, extracted 3 times with 20 ml of chloroform each, then the combined organic phase is washed with 20 ml of water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The pale yellow oily residue is rubbed with an 1:1 mixture of benzene and petroleum ether to obtain 287 mg (47.7%) of the title compound as a white crystalline product, m.p.: 151°-153° C.

reactant | 6-methyl-2-thiouracil | 2.5 mmol, 355 mg | CC1=CC(NC(N1)=S)=O | C5H6N2OS
reactant | sodium | 5.05 mmol, 116 mg | [Na] | Na
reactant | thiouracil | N1C(=S)NC(=O)C=C1 | C4H4N2OS
reactant | (2-chloromethylphenyl)-dimethylammonium chloride | 2.5 mmol, 515 mg | [Cl-].ClCC1=C(C=CC=C1)[NH+](C)C
solvent | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-(2-dimethylaminobenzyl)thio-6-methyl-4(3H)-pyrimidinone | 287 mg, 47.7% | CN(C1=C(CSC2=NC(=CC(N2)=O)C)C=CC=C1)C | C14H17N3OS
